US06147216
2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid, dimethylamide;
2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid, pyrroldineamide;

reactant | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
reactant | pyrroldineamide | N1(CCCC1)C(=O)N | C5H10N2O
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic acid, dimethylamide | CN(C(C(C)(C)C1=CC=C(C=C1)C(CCCCl)=O)=O)C | C16H22ClNO2
